US07229992B2
To an ice-cooled suspension of (3R)-1-benzyl-3-(3-methoxy-4-methylbenzyl)piperazine-2,5-dione (1.35 g) in tetrahydrofuran (22 ml) was added lithium aluminum hydride (0.378 g) at 5° C. or below under a nitrogen atmosphere. The mixture was stirred under reflux for 3 hours. After cooling the mixture to 5° C. or below, 2N sodium hydroxide was added to the mixture. After stirring the mixture for 30 minutes, insoluble matters were collected by filtration and washed with tetrahydrofuran. The filtrate and the washings were combined and the solvent was evaporated under reduced pressure to give (3R)-1-benzyl-3-(3-methoxy-4-methylbenzyl)piperazine in the form of an oily substance. A solution of 3,5-bis(trifluoromethyl)benzoyl chloride (0.80 ml) in dichloromethane (1 ml) was added dropwise to an ice-cooled solution of (3R)-1-benzyl-3-(3-methoxy-4-methylbenzyl)-piperazine obtained by the above process and triethylamine (0.84 ml) in dichloromethane (10 ml) at 5° C. or below over 5 minutes. After stirring at the same temperature for 30 minutes, the reaction mixture was washed with an aqueous sodium chloride solution and dried over magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography using a mixed solvent of hexane and ethyl acetate (4:1). Fractions containing the desired compound were collected and the solvent was evaporated under reduced pressure to give (2R)-4-benzyl-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3-methoxy-4-methylbenzyl)-piperazine (1.92 g) in the form of an oily substance.

reactant | (3R)-1-benzyl-3-(3-methoxy-4-methylbenzyl)piperazine-2,5-dione | 1.35 g | C(C1=CC=CC=C1)N1C([C@H](NC(C1)=O)CC1=CC(=C(C=C1)C)OC)=O | C20H22N2O3
reactant | lithium aluminum hydride | 0.378 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | tetrahydrofuran | 22 ml | O1CCCC1 | C4H8O
product | (3R)-1-benzyl-3-(3-methoxy-4-methylbenzyl)piperazine | C(C1=CC=CC=C1)N1C[C@H](NCC1)CC1=CC(=C(C=C1)C)OC | C20H26N2O
